US06455528B1
(1) N-Phenylmethylacetamide
To a solution of benzylamine (98.1 g) in methylene chloride (100 ml) was added an aqueous solution (200 ml) of sodium hydroxide (44 g). While further stirring the mixture, acetyl chloride (78 ml) was added at 15-20° C. over 1 hr. This reaction mixture was stirred at room temperature for 30 min and extracted with chloroform (100 ml×2). The chloroform layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated to give a white solid (160 g). The obtained solid was crystallized from hexane: ethyl acetate (2:1, 750 ml) to give the title compound (125.7 g) as white crystals, m.p.=61-62° C.

reactant | benzylamine | 98.1 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydroxide | 200 ml, 44 g | [OH-].[Na+]
reactant | acetyl chloride | 78 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-Phenylmethylacetamide | 160 g | C1(=CC=CC=C1)CNC(C)=O | C9H11NO
